US07402598B2
iii) (1R)-2-Amino-1-[4-(benzyloxy)-3-fluorophenyl]ethanol
A solution of (1R)-2-azido-1-[4-(benzyloxy)-3-fluorophenyl]ethanol (410 mg) in THF (8 mL) and water (2 mL) was treated with PPh3 (410 mg) and stirred for 1 h prior to addition of further with PPh3 (220 mg). After stirring for a further 4 h the reaction mixture was concentrated in vacuo and the residue partitioned between EtOAc and water. The organic phase was washed three times with 5% NaHCO3(aq) dried and concentrated in vacuo. The residue was purified by chromatography on silica gel, eluting with DCM, 1% MeOH in DCM, 2% MeOH in DCM, 5% MeOH containing 0.5% Et3N in DCM, and finally 20% MeOH containing 1% Et3N in DCM) to give the title compound (260 mg). LCMS RT=2.16 min.

reactant | (1R)-2-azido-1-[4-(benzyloxy)-3-fluorophenyl]ethanol | 410 mg | N(=[N+]=[N-])C[C@H](O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)F | C15H14FN3O2
reactant | PPh3 | 410 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | PPh3 | 220 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | (1R)-2-Amino-1-[4-(benzyloxy)-3-fluorophenyl]ethanol | 260 mg | NC[C@H](O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)F | C15H16FNO2
